Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Dyspnea, chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with history of hypertension and seizures who 
presents with pleuritic chest pain and dyspnea on exertion, 
subsequently found to have pulmonary infiltrates and a 
pericardial effusion by CT.

Per patient with assistance from an interpreter and niece, she 
began feeling some dyspnea on exertion with chest pain while she 
was in ___ prior to ___, and she received a CT scan 
which was negative. Upon travel to the ___. on ___, her 
symptoms persisted and gradually worsened. Aleve was used to 
good effect in controlling her chest pain, but her symptoms 
continued to return between doses. In the interim she also 
developed associated dizziness, lightheadedness, nausea, and 
constipation. She went to the ___ on the night of 
___ when her symptoms were uncontrolled by medications. 
In the ___, she had O2 sats 90-95% on RA, a D-Dimer 
(+)/6000, BNP 1247, and CT chest which showed large pericardial 
effusion and B/L consolidations concerning for pneumonia as well 
as mediastinal lymphadenopathy. An EKG in the ___ showed 
2nd degree heart block. She was started there on IV levofloxacin 
for CAP treatment and transferred to ___.

___ initial vitals were: T 99.0 P 84 BP 130/67 RR 16 SAO2 93% NC  

EKG: sinus 75. T wave flattening in multiple leads (II, AVF, 
V3-V6). TWI in III. low voltages.  
Labs/studies notable for: WBC 9.6 with 76.3% PMNs, Hgb 9.1. INR 
1.5. trop neg x1.  
Pulsus was found to be ___ mmHg.  
Cardiology was consulted. Bedside TTE showed TTE with moderate 
effusion, no RV diastolic collapse. Admission to ___ was 
recommended.  
Patient was given: 4mg IV morphine x2 and 4mg IV Zofran.  
Vitals on transfer: T 99.7 P 72 BP 116/50 RR 21 SAO2 96% RA

At ___, she had a repeat Echo which demonstrated moderate
circumferential pericardial effusion without evidence of
tamponade. She also had a CXR with retrocardiac opacity and 
small-moderate pleural effusions. The patient was seen on the 
___ team and it was felt that the patient's inflammatory 
symptoms indicated effusion secondary to pericarditis due to 
pneumonia. Inflammatory disease and TB were also considered in 
the differential, and because the patient lives in ___, 
there was higher suspicion for such. The patient was transferred 
to the medical floor ___ for TB rule out with continued 
levofloxacin coverage for presumed pneumonia.

On the floor, the patient was held in respiratory isolation 
while being ruled out for TB infection. An interpereter and the 
patient's niece assisted in facilitating the conversation with 
her care team. She reports feeling "90% better" than she has 
been feeling for the prior weeks with no chest pain or shortness 
of breath presently. Her return flight to ___ is 
___. 

 
Past Medical History:
Hypertension
Seizure disorder

 
Social History:
___
Family History:
-No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T 98 P 50 BP 129/52 RR 18 SAO2 94% RA
GEN: Patient seated at bedside, NAD
HEENT: NT/AC; sclera anicteric, conjunctiva pink, PERRL, EOMI; 
moist oral mucosa w/o cyanosis or pallor
CV: RRR, (+)S1/S2, no M/R/G
PULM: CTAB, no W/R/R
ABD: NTTP, (+)BS, no organomegaly,  
GU: No Foley in place 
EXT: WWP
SKIN: No ecchymoses or erythema 
NEURO: AAOx3
PSYCH: Appropriate mood, affect

DISCHARGE PHYSICAL EXAM:
VS: T 98.0 P 64 BP 132/63 RR 18 SAO2 95% RA
GEN: Patient seated at bedside, NAD
HEENT: NT/AC; sclera anicteric, conjunctiva pink, PERRL, EOMI; 
moist oral mucosa w/o cyanosis or pallor
CV: RRR, (+)S1/S2, no M/R/G
PULM: CTAB, no W/R/R
ABD: NTTP, (+)BS, no organomegaly,  
GU: No Foley in place 
EXT: WWP
SKIN: No ecchymoses or erythema 
NEURO: AAOx3
PSYCH: Appropriate mood, affect

 
Pertinent Results:
ADMISSION LABS:
___ 12:30AM BLOOD WBC-9.6 RBC-3.35* Hgb-9.1* Hct-28.8* 
MCV-86 MCH-27.2 MCHC-31.6* RDW-14.2 RDWSD-44.3 Plt ___
___ 12:30AM BLOOD ___ PTT-26.4 ___
___ 12:30AM BLOOD Glucose-118* UreaN-8 Creat-0.6 Na-142 
K-3.7 Cl-104 HCO3-24 AnGap-18

DISCHARGE LABS:
___ 07:34AM BLOOD WBC-6.4 RBC-3.56* Hgb-9.7* Hct-30.1* 
MCV-85 MCH-27.2 MCHC-32.2 RDW-14.2 RDWSD-43.9 Plt ___
___ 07:34AM BLOOD Plt ___
___ 07:34AM BLOOD Glucose-93 UreaN-13 Creat-0.6 Na-143 
K-4.2 Cl-107 HCO3-24 AnGap-16
___ 07:34AM BLOOD estGFR-Using this
___ 07:34AM BLOOD Calcium-8.5 Phos-4.4 Mg-2.2
___ Quantiferon Gold: Negative

OTHER IMPORTANT STUDIES:     
___ 12:30AM BLOOD cTropnT-<0.01
___ 12:30AM BLOOD TSH-2.7
___ 12:30AM BLOOD AMA-NEGATIVE
___ 12:30AM BLOOD ___ dsDNA-NEGATIVE
___ 12:30AM BLOOD CRP-GREATER THAN ASSAY
___ ESR: 123mm/hr

MICRO:
___ Blood Culture: NGTD, pending at discharge
___ Induced Sputum: Acid fast smear negative; culture 
pending
___ Induced Sputum: Acid fast smear negative; culture 
pending
___ Induced Sputum: Acid fast smear negative; culture 
pending

IMAGING:
TTE (___): IMPRESSIONS: Moderate circumferential 
pericradial effusion without echocardiographic signs of 
tamponade. Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Mild pulmonary systolic hypertension.

TTE (___): IMPRESSIONS: The left atrium is normal in size. 
Left ventricular wall thicknesses and cavity size are normal. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. Regional left ventricular wall motion is normal. 
Overall left ventricular systolic function is normal (LVEF>55%). 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The number of 
aortic valve leaflets cannot be determined. The aortic valve 
leaflets are mildly thickened (?#). There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. No mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is a small to moderate sized echodense 
circumferential pericardial effusion. There are no 
echocardiographic signs of tamponade. 

CXR (___) IMPRESSION:
1. Small to moderate bilateral pleural effusions. 
2. Severely enlarged heart discordant with mild pulmonary 
vascular congestion suggesting underlying pericardial effusion 
or cardiomyopathy. 
3. Retrocardiac opacity may represent is and/or fluid in the 
major fissure.  
Recommend comparison with prior outside hospital study. 

 
Brief Hospital Course:
==================================
PRIMARY REASON FOR ADMISSION: 
==================================
___ with a PMHx of HTN and seizures who presents with chest 
pressure and DOE concerning for pericarditis.

==================================
ACTIVE ISSUES:
==================================

#Pericarditis and pericardial effusion: The patient presented 
with chest pressure and dyspnea with inflammatory symptoms 
(pleuritic chest pain, low grade/subjective fevers) to endorse 
likely pericarditis in addition to effusion visualized on CT. 
Pulsus remained stable with TTE without evidence of tamponade. 
No history of trauma, malignancy, surgery or radiation. 
Autoimmune disorder, TB also on the differential. ___ 
appears to have slightly higher incidence of TB than US. TB r/o 
was negative as below. TSH was 2.7 on admission, non-suggestive 
of thyroid-related effusion. Apart from generally elevated 
ESR/CRP, basic rheumatologic work-up was also negative. She was 
started on NSAIDs and colchicine with significant improvement in 
symptoms. Repeat TTE, prior to discharge also showed improvement 
in size of effusion without any other signs of hemodynamic 
compromise. She was instructed to follow up with her PCP as well 
as with a cardiologist following return to ___ for possible 
repeat TTE. She was continued on recommended 2 week course of 
NSAIDs and 3 month course of colchicine at discharge.

#Concern for TB: Initially there was concern for TB as a cause 
of effusion in addition to higher risk given where patient was 
coming from. However, she had negative quantiferon gold and AFB 
smear x3 on induced sputum. Cultures were pending at time of 
discharge, but overall not felt to have tuberculosis (active or 
latent).

#Pulmonary infiltrates: Per CT at OSH, patient had possible 
consolidations in the right middle and lower lobes, and small 
b/l pleural effusions. She was started on levofloxacin (___) 
for presumed CAP, however, she clinically did not appear to have 
pneumonia. Given low clinical suspicion as well as possible 
partial treatment of TB, patient's abx were discontinued. She 
continued to be afebrile and improved with management of her 
pericarditis/effusion with colchicine and NSAIDs. As such, her 
pulmonary infiltrates could be due to prior infection or other 
autoimmune/inflammatory process. Patient may follow up with her 
PCP following discharge back in ___.

#Coagulopathy: ___ mildly elevated on admission. Differential 
includes nutritional deficiency vs liver disease. Not on any 
anticoagulation. The patient's low albumin was suggestive of 
poor nutritional intake, especially in setting of recent acute 
illness. Patient also clinically without evidence of bleeding or 
drop in H&H. As such, no intervention was made. Patient should 
have repeat coagulation studies back in ___.

#Anemia: Patient with low-normal MCV and anemia (Stable Hgb of 
~9.5) during this admission I/s/o active inflammation/acute 
illness. Unknown baseline. Patient should have outpatient 
work-up and repeat studies following discharge back in ___.

==================================
CHRONIC ISSUES
==================================

#HTN: continued on home amlodipine (not on perindopril as not on 
formulary). Restarted on home meds at time of discharge.

#Seizure disorder: continued on home keppra 1000mg BID

==================================
TRANSITIONAL ISSUES:
==================================
[ ] continue colchicine 0.6mg PO daily until PCP visit in 
___, likely for 3 month course (___)
[ ] continue ibuprofen 800mg PO TID daily until PCP visit in 
___ or for up to 2 weeks ___, D14/last ___
[ ] make appointment with PCP in ___ to discuss 
hospitalization and follow-up to be assessed by cardiology with 
possible repeat TTE
[ ] present all records of this and OSH stay to ___ in ___
[ ] continue taking bowel regimen as needed
[ ] Patient had negative Quantiferon Gold and AFB smear x3 on 
induced sputum samples, effectively ruling out tuberculosis
[ ] Consider further work-up/repeat evaluation of anemia (likely 
due to inflammation) and coagulopathy (due to poor nutrition) 
following recovery from acute illness and upon returning to 
___
#Contact: ___ (niece) ___
#CODE: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. perindopril-amlodipine 10mg-5mg  oral QAM 
2. LevETIRAcetam 1000 mg PO BID 

 
Discharge Medications:
1. LevETIRAcetam 1000 mg PO BID 
2. perindopril-amlodipine 10mg-5mg  oral QAM 
3. Colchicine 0.6 mg PO DAILY Duration: 3 Months 
Please take for total 3 months unless otherwise instructed 
RX *colchicine 0.6 mg 1 capsule(s) by mouth once a day Disp #*90 
Capsule Refills:*0
4. Ibuprofen 800 mg PO TID Duration: 2 Weeks 
Please take with food. 
RX *ibuprofen 800 mg 1 tablet(s) by mouth three times a day Disp 
#*42 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID:PRN constipation 
Please do not take if experiencing loose bowel movements or 
diarrhea. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*0
6. Senna 8.6 mg PO DAILY:PRN constipation 
Please do not take if experiencing loose bowel movements or 
diarrhea. 
RX *sennosides [senna] 8.6 mg 1 by mouth once a day Disp #*20 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
-Pericardial effusion with unclear etiology
-Acute Percarditis
-Pulmonary infiltrates of unclear etiology

Secondary diagnoses:
-Hypertension
-Seizure disorder
-Anemia
-Coagulopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were transferred to ___ from ___ after your 
worsening shortness of breath and chest pain became unbearable. 
Tests at ___ revealed that you had fluid around 
your heart and possibly a pneumonia in your lungs, so they gave 
you antibiotics and transferred you to ___ for further 
treatment. While at ___, it was thought that you might have 
tuberculosis, so your antibiotics were stopped and you were 
isolated while tests were done to rule this out. These tests did 
not show any signs of tuberculosis.

Regarding the fluid around your heart, we are unclear exactly 
the cause. Most likely this was due to inflammation around the 
sac surrounding your heart caused by a recent viral infection. 
You were given medications to treat this inflammation and your 
chest pain and shortness of breath resolved quickly. You were 
sent home with instruction to see your primary care doctor in 
___ and give them your hospital records from this stay. 
Thank you for allowing us to participate in your care!

Best regards,
Your ___ Care Team
 
Followup Instructions:
___